US04990510
9-chloro-6-(N,N-dimethylaminoethyl)-6H-indolo(2,3-b)-quinoxaline-HCl
5.06 g sodium (0.22 mole) is dissolved in 300 ml 2-methoxyethanol, 15.9 g N,N-dimethylamino-2-chloroethane-HCl (0.11 mole) is added followed by 25.4 g 9-chloro-6H-indolo(2,3-b)quinoxaline (0.10 mole). The mixture is heated for 3 hours at 100° C., cooled and filtered. The filtrate is concentrated and poured into water. The raw base obtained is filtered off and washed with water and subjected to chromatography on silica gel with methanol as eluent. The purified base is dissolved after drying in acetone. The hydrochloride is precipitated by slowly dropwise adding concentrated hydrochloric acid with stirring. Yield 23.2 g, 66%, mp. 243°-246° C.

reactant | sodium | 0.22 mole, 5.06 g | [Na] | Na
reactant | N,N-dimethylamino-2-chloroethane-HCl | 0.11 mole, 15.9 g | Cl.CN(C)CCCl
reactant | 9-chloro-6H-indolo(2,3-b)quinoxaline | 0.10 mole, 25.4 g | ClC1=CC2=C(C=C1)NC1=NC3=CC=CC=C3N=C12 | C14H8ClN3
solvent | 2-methoxyethanol | 300 ml | COCCO | C3H8O2
product | 9-chloro-6-(N,N-dimethylaminoethyl)-6H-indolo(2,3-b)-quinoxaline-HCl | Cl.ClC1=CC2=C(C=C1)N(C1=NC3=CC=CC=C3N=C12)CCN(C)C | InChI=1S/C18H17ClN4.ClH/c1-22(2)9-10-23-16-8-7-12(19)11-13(16)17-18(23)21-15-6-4-3-5-14(15)20-17;/h3-8,11H,9-10H2,1-2H3;1H
